US08405069B2
h. 11-(Diethoxyphosphoryl)undecyl acrylate
Diethyl 11-hydroxyundecylphosphonate (1.00 g, 3.24 mmol), triethylanine (0.328 g, 3.24 mmol) and a spatula tip of hydroquinone were dissolved in ˜20 mL dry DCM in a 50 mL rbf under argon. This mixture was stirred and put in an ice bath. Acryloyl chloride (0.322 g, 3.56 mmol) was added dropwise via syringe. After 3 hours tlc of reaction mixture showed no starting material (ethyl acetate, 12 stain). Reaction was stopped and toluene was added to the reaction mixture. The organic was washed with water and then dried and concentrated by rotary evaporation. The product was then redissolved in DCM and extracted with water. The organic was then dried and concentrated by rotary evaporation to yield a yellow oil. Upon high vacuum crystals started to form. The oil was then redissolved in acetonitrile and the crystals filtered. 1H NMR of the crystals showed an unknown chemical species. The oil was concentrated by rotary evaporation and put on high vacuum again. The desired product was obtained as a yellow oil (444 mg, 38% yield). 1H NMR (300 MHz, CDCl3) δ 6.40 (dd, J=17.32, 1.54 Hz), 6.12 (dd, J=17.32, 10.40 Hz), 5.81 (dd, J=10.36, 1.54 Hz), 4.17-4.02 (m, 4H), 4.14 (t, J=6.75 Hz, 2H), 1.80-1.50 (m, 6H), 1.42-1.22 (m, 20H). 13C{1H} NMR (75.45 MHz, CDCl3) δ 166.55, 130.66, 128.88, 64.91, 61.61 (d, J=6.88 Hz, 2C), 30.82 (d, J=17.21 Hz), 29.69 (2C), 29.55, 29.44, 29.31, 28.84, 26.13, 25.89 (d, J=139.97 Hz), 22.62 (d, J=4.59 Hz), 16.71 (d, J=5.74 Hz, 2C). Analysis found (calculated) %: C, 58.66 (59.65); H, 9.63 (9.73).

reactant | Diethyl 11-hydroxyundecylphosphonate | 3.24 mmol, 1.00 g | OCCCCCCCCCCCP(OCC)(OCC)=O | C15H33O4P
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | Acryloyl chloride | 3.56 mmol, 0.322 g | C(C=C)(=O)Cl | C3H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | ˜20 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 11-(Diethoxyphosphoryl)undecyl acrylate | C(C=C)(=O)OCCCCCCCCCCCP(=O)(OCC)OCC | C18H35O5P
